US07652022B2
Stage 101.1: (4-Chloro-pyridin-2-yl)-pyrrolidin-1-yl-methanone
4-Chloro-pyridine-2-carboxylic acid methylester (200 mg, 1.17 mmol) and MgCl2 (555 mg, 0.58 mmol) are suspended in THF (5 mL) at rt. The mixture is stirred for 5 min and then pyrrolidine (193 μL, 2.33 mmol) is added and the mixture stirred for an additional 15 min. It is worked up by addition of aqueous HCl solution (1M, 1.2 mL) and extraction with ethyl acetate. The combined organic extracts are washed with brine dried over MgSO4. The volatiles are removed under reduced pressure to give the title compound as a yellow oil: C10H11ClN2O: M+=211.3; 1H-NMR (DMSO-d6): 8.55 (d, 1H), 7.82 (s, 1H), 7.59 (d, 1H), 3.62-3.42 (m, 4H), 1.93-1.75 (m, 4H).

reactant | 4-Chloro-pyridine-2-carboxylic acid methylester | 1.17 mmol, 200 mg | COC(=O)C1=NC=CC(=C1)Cl | C7H6ClNO2
reactant | MgCl2 | 0.58 mmol, 555 mg | [Mg+2].[Cl-].[Cl-]
reactant | pyrrolidine | 2.33 mmol, 193 μL | N1CCCC1 | C4H9N
reactant | HCl | 1M, 1.2 mL | Cl | ClH
solvent | THF | 5 mL | C1CCOC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | (4-Chloro-pyridin-2-yl)-pyrrolidin-1-yl-methanone | ClC1=CC(=NC=C1)C(=O)N1CCCC1 | C10H11ClN2O
